US05962531
A solution of 2-bromo-6-methoxynaphthalene (22.2 g, 93.6 mmol) in tetrahydrofuran (500 ml) was cooled to -78° C. and n-butyllithium (75 ml 1.6 M in THF, 121.7 mmol) was added dropwise over 15 minutes. After 0.5 h, dimethyl disulfide (13 ml, 140 mmol) was added and the reaction mixture was allowed to warm to room temperature. After 16 h, 1N sodium hydroxide (100 ml) was added and the reaction mixture was stirred for 1 h. The organic layer was separated and washed with 1N sodium hydroxide, 5% aqueous sodium sulfite, and brine, and dried over sodium sulfate. The solvent was removed in vacuo and the crude product was recrystallized form ethyl acetate and hexane to give 11.1 g of 2-methoxy-6-methylthio-naphthalene as a solid (58% yield).

reactant | 2-bromo-6-methoxynaphthalene | 93.6 mmol, 22.2 g | BrC1=CC2=CC=C(C=C2C=C1)OC | C11H9BrO
reactant | n-butyllithium | 121.7 mmol, 1.6 M, 75 ml | C(CCC)[Li]
reactant | dimethyl disulfide | 140 mmol, 13 ml | CSSC | C2H6S2
reactant | sodium hydroxide | 1N, 100 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | 2-methoxy-6-methylthio-naphthalene | 11.1 g, 58% yield | COC1=CC2=CC=C(C=C2C=C1)SC | C12H12OS
